US05981539
(±)-Methoxy-1-pentylquinuclidinium bromide.
To a suspension of (±)-3-hydroxy-1-pentylquinuclidinium bromide (20 g, 72 mmol) in dry 1,2-dimethoxyethane (150 ml) at 0° C., under nitrogen, was added sodium hydride (3.48 g, 60% in mineral oil, 86.8 mmol) and then iodomethane (11.3 ml, 181 mmol). The temperature was allowed to rise to room temperature overnight. Water (200 ml) was added and the mixture was extracted with 6×100 ml dichloromethane. Drying and evaporation gave an oily residue which, after trituration with petrol ether, gave the title compound as a crystalline solid. Yield 23.9 g (That the yield was more than 100% is explained by the fact that there is a mixture of bromide and iodide as counter ions.).

reactant | (±)-3-hydroxy-1-pentylquinuclidinium bromide | 72 mmol, 20 g | [Br-].OC1C[N+]2(CCC1CC2)CCCCC
reactant | sodium hydride | 86.8 mmol, 3.48 g | [H-].[Na+]
reactant | iodomethane | 181 mmol, 11.3 ml | IC | CH3I
reactant | Water | 200 ml | O | H2O
reactant | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
product | (±)-Methoxy-1-pentylquinuclidinium bromide | yield was more than 100% | [Br-].COC1[N+]2(CCC(C1)CC2)CCCCC | InChI=1S/C13H26NO.BrH/c1-3-4-5-8-14-9-6-12(7-10-14)11-13(14)15-2;/h12-13H,3-11H2,1-2H3;1H/q+1;/p-1
